US04005217
N-(4-n-butyl-2-nitrophenyl)-2-dimethylaminoacetamide (36 g), prepared as described above, platinum oxide (0.2 g) and ethanol (100 ml) were shaken together in an atmosphere of hydrogen at laboratory temperature and atmospheric pressure until the uptake of hydrogen was complete; 8.2 litres were absorbed. The mixture was filtered and the ethanol evaporated off. The resultant solid was recrystallised from petroleum spirit (b.p. 60°-80° C.) to give N-(2-amino-4-n-butylphenyl)-2-dimethylaminoacetamide (24.0 g), m.p. 63°-66° C.

reactant | N-(4-n-butyl-2-nitrophenyl)-2-dimethylaminoacetamide | 36 g | C(CCC)C1=CC(=C(C=C1)NC(CN(C)C)=O)[N+](=O)[O-] | C14H21N3O3
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | 0.2 g | [Pt]=O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-(2-amino-4-n-butylphenyl)-2-dimethylaminoacetamide | 24.0 g | NC1=C(C=CC(=C1)CCCC)NC(CN(C)C)=O | C14H23N3O
